US05665737
(b) N-(2-hydroxy-3-nitrophenyl)-3-cyclopentyloxy-4-methoxy-phenylacetamide
A suspension of 3-cyclopentyloxy-4-methoxyphenylacetic acid (1.00 g) and 1,1'-carbonyldiimidazole (821 mg) in dichloromethane (5 ml) was stirred at room temperature, under argon, for 2 hours. The resulting solution was added to a stirred solution of 2-amino-6-nitrophenol (723 mg) in dichloromethane (10 ml) and the mixture stirred at room temperature, under argon, overnight. The reaction mixture was diluted with water (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were washed with water (100 ml), 1N HCl (50 ml) and brine (50 ml), dried over CaSO4 and evaporated in-vacuo to yield the title compound (1.05 g, 68%) as an orange solid. δH (250 MHz;d6DMSO), 1.58-1.97 (8H,m,4 ×CH2), 3.73 (2H,s,CH2), 3.87 (3H,s,OMe), 4.79 (1H,m,CH), 6.78-6.93 (3H,m,ArH), 6.98 (1H,t,ArH), 7.78 (1H,dd,ArH), 7.95 (1H,bs,CONH), 8.71 (1H,dd,ArH), 10.5 (1H,bs,ArOH).

reactant | 3-cyclopentyloxy-4-methoxyphenylacetic acid | 1.00 g | C1(CCCC1)OC=1C=C(C=CC1OC)CC(=O)O | C14H18O4
reactant | 1,1'-carbonyldiimidazole | 821 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-6-nitrophenol | 723 mg | NC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-(2-hydroxy-3-nitrophenyl)-3-cyclopentyloxy-4-methoxy-phenylacetamide | 1.05 g, 68% | OC1=C(C=CC=C1[N+](=O)[O-])NC(CC1=CC(=C(C=C1)OC)OC1CCCC1)=O | C20H22N2O6
